US07645776B2
1-(3-{5-[(R)-1-(2-Phenoxy-acetyl)-piperidin-2-yl]-1H-[1,2,4]triazol-3-yl}-phenyl)-azetidin-2-one
75 mg of 1-{2-[5-(3-Amino-phenyl)-2H-[1,2,4]triazol-3-yl]-piperidin-1-yl}-2-phenoxy-ethanone were dissolved in MDF and 40 ul DIPEA added. 34 mg of 3-Bromo-propionyl chloride were added at 0° C. and the reaction warmed up to rt and stirred for another 30 min. The reaction mixture was heated to 120° C. using microwave heating and the product was isolated via preparative HPLC.

reactant | 1-{2-[5-(3-Amino-phenyl)-2H-[1,2,4]triazol-3-yl]-piperidin-1-yl}-2-phenoxy-ethanone | 75 mg | NC=1C=C(C=CC1)C=1N=C(NN1)C1N(CCCC1)C(COC1=CC=CC=C1)=O | C21H23N5O2
reactant | 3-Bromo-propionyl chloride | 34 mg | BrCCC(=O)Cl | C3H4BrClO
solvent | DIPEA | 40 ul | CCN(C(C)C)C(C)C | C8H19N
product | 1-(3-{5-[(R)-1-(2-Phenoxy-acetyl)-piperidin-2-yl]-1H-[1,2,4]triazol-3-yl}-phenyl)-azetidin-2-one | O(C1=CC=CC=C1)CC(=O)N1[C@H](CCCC1)C1=NC(=NN1)C=1C=C(C=CC1)N1C(CC1)=O | C24H25N5O3
